Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2](=[C:3]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],2.87435011682
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([O:10])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]1([C:7]([H:8])[H:9])[O:10][C:11]1([H:12])[H:13],-0.010539362079700002
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12]>>[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12].[H:1],3.93510282586
[C:13]([H:14])=[C:15]([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-4.52123206883
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9],5.554916134909999
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],3.49886327309
[H:4].[O:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],-2.44953581736
[C:1]#[C:2].[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],-7.089622858049999
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:7],4.41572898681
[C:1]=[O:2].[C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],0.889384415051
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[O:12][H:13].[H:8],4.90050085894
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9](\[H:10])[O:11][H:12].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-1.97155019
[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-10.59751349
[H:6].[O:1]=[C:2]([C:3]([H:4])=[C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.99571910986
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:11][H:12],3.6166790896300007
[C:2]([H:3])#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.5228714831800003
[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7]>>[H:1][O:2][C:3][C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10],-3.99874684216
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],7.23781341205
[H:1][O:2][C:3]([H:4])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.241342959730002
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-6.387448656980001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.98353603579
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],-2.05932228753
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.15279799707
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5],4.5513280297600005
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2],8.08095649125
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8],5.495448198509999
[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-5.11817855918
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],2.15314377121
